US05091535
Diethylene glycol monomethyl ether (20 cc) was added to pyrido[3,2-g] quinoline-2,8-dicarboxylic acid (2.01 g, 7.5 mmol) from the above process and cuprous oxide (I) (50 mg, 0.35 mmol), and heated for 5.5 hours at 165° C. Carbon dioxide evolved during the reaction. After the addition of conc. aquous ammonia (25 cc), extracted with dichloromethane (3×100 ml) and dried on potassium carbonate and evaporated dichloromethane to yield pyrido[3,2-g]quinoline.

reactant | pyrido[3,2-g] quinoline-2,8-dicarboxylic acid | 7.5 mmol, 2.01 g | N1=C(C=CC2=CC3=C(C=C12)N=C(C=C3)C(=O)O)C(=O)O | C14H8N2O4
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | ammonia | 25 cc | N | H3N
solvent | Diethylene glycol monomethyl ether | 20 cc | COCCOCCO | C5H12O3
product | pyrido[3,2-g]quinoline | N1=CC=CC2=CC3=C(C=C12)N=CC=C3 | C12H8N2
